US04198425
Using 900 mg of 6-[p-(p-fluorobenzyloxy)phenyl]-3-hexen-2-one, 660 mg of ethyl bromoacetate and 260 mg of zinc, the reaction and the purification of the product were carried out according to the method described in Example 1 (a) affording 1.10 g of ethyl 3-hydroxy-3-methyl-7-[p-(p-fluorobenzyloxy)phenyl]-4-heptenoate.

reactant | 6-[p-(p-fluorobenzyloxy)phenyl]-3-hexen-2-one | 900 mg | FC1=CC=C(COC2=CC=C(C=C2)CCC=CC(C)=O)C=C1 | C19H19FO2
reactant | ethyl bromoacetate | 660 mg | BrCC(=O)OCC | C4H7BrO2
catalyst | zinc | 260 mg | [Zn] | Zn
product | ethyl 3-hydroxy-3-methyl-7-[p-(p-fluorobenzyloxy)phenyl]-4-heptenoate | 1.10 g | OC(CC(=O)OCC)(C=CCCC1=CC=C(C=C1)OCC1=CC=C(C=C1)F)C | C23H27FO4
